US06900345B2
5-Hydroxymethylpyrazine-2-carboxylic Acid Amide
Pyrazinecarboxylic acid amide (0.492 g, 4 mmol) was suspended in methanol (8 ml), water (4 ml) and concentrated sulphuric acid (0.22 ml, 4 mmol), then iron (II) sulphate heptahydrate (0.334 g, 1.2 mmol) was added and the mixture degassed. To this was then added hydroxylamine-O-sulphonic acid (1.36 g, 12 mmol). After 6 h more sulphuric acid and iron (II) sulphate heptahydrate were added. After a further 1 h the mixture was adjusted to pH 7, evaporated, and the residue extracted with methanol. This solution was pre-absorbed onto silica then purified by chromatography, eluting with 0-10% ‘2 M ammonia in methanol’ in dichloromethane, to give the title compound as an off-white solid (0.102 g, 17%); NMR [(CD3)2SO] 4.72 (2H, d), 5.72 (1H, t), 7.79 (1H, br s), 8.22 (1H, br s), 8.73 (1H, d), and 9.09 (1H, d).

reactant | Pyrazinecarboxylic acid amide | 4 mmol, 0.492 g | N1=C(C=NC=C1)C(=O)N | C5H5N3O
reactant | water | 4 ml | O | H2O
reactant | sulphuric acid | 4 mmol, 0.22 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydroxylamine-O-sulphonic acid | 12 mmol, 1.36 g | NOS(=O)(=O)O | H3NO4S
reactant | methanol | 8 ml | CO | CH4O
catalyst | iron (II) sulphate heptahydrate | 1.2 mmol, 0.334 g | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Fe+2]
product | 5-Hydroxymethylpyrazine-2-carboxylic Acid Amide | 0.102 g, 17% | OCC=1N=CC(=NC1)C(=O)N | C6H7N3O2
